US05554749
A solution of 2,2-dimethyl-4-aminomethyl-1,3-dioxolane (10.0 g, 0.08 mol) and triethylamine (8.1 g, 11.1 mL, 0.08 mol) in 100 mL of N,N-dimethylformamide is cooled to 0 C. under argon atmosphere. Then β-trimethylsilylethanesulfonyl chloride (16.0 g, 0.08 mol) is added dropwise. The solution is allowed to reach 25 C. and is stirred for 15 hours. The solvents are removed under reduced pressure and the crude residue is partitioned between dichloromethane (100 mL) and 5% sodium bicarbonate solution (50 mL). The layers are separated and the organic layer is dried over anhydrous sodium sulfate and evaporated to give 2,2-dimethyl-4-[N-(β-trimethylsilylethanesulfonyl)-aminomethyl]-1,3-dioxolane.

reactant | 2,2-dimethyl-4-aminomethyl-1,3-dioxolane | 0.08 mol, 10.0 g | CC1(OCC(O1)CN)C | C6H13NO2
reactant | triethylamine | 0.08 mol, 11.1 mL, 8.1 g | C(C)N(CC)CC | C6H15N
reactant | β-trimethylsilylethanesulfonyl chloride | 0.08 mol, 16.0 g | C[Si](CCS(=O)(=O)Cl)(C)C | C5H13ClO2SSi
solvent | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | 2,2-dimethyl-4-[N-(β-trimethylsilylethanesulfonyl)-aminomethyl]-1,3-dioxolane | CC1(OCC(O1)CNS(=O)(=O)CC[Si](C)(C)C)C | C11H25NO4SSi
